US06673811B1
Pd(OH)2 (200 mg) is added to a solution of 1-Hydroxy-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid ethyl ester (1.2 g, 0.005 mole) in ethanol (20 mL) and is hydrogenated at 50 psi for 24 h. The catalyst is removed by filtration through a pad of celite and the solvent evaporated under vacuum. The residue is chromatographed over silica gel eluting with 5% MeOH-DCM containing few drops of NH4OH to afford 6-Methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid ethyl ester (550 mg, 50%); 1H NMR (300 MHz, DMSO-d6) δ 1.28 (t, J=6 Hz, 3H), 2.38 (s, 3H), 4.24 (q, J=6.6 Hz, 2H), 7.62 (s, 1H); 8.17 (s, 1H), 8.31 (s, 1H); LRMS Calcd 204.23; found 205.15.

reactant | 1-Hydroxy-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid ethyl ester | 0.005 mole, 1.2 g | C(C)OC(=O)C1=CN(C=2C1=NC=C(C2)C)O | C11H12N2O3
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd(OH)2 | 200 mg | [OH-].[OH-].[Pd+2]
product | 6-Methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid ethyl ester | 550 mg, 50% | C(C)OC(=O)C1=CNC=2C1=NC=C(C2)C | C11H12N2O2
